US08377923B2
Concentrated hydrochloric acid (30 ml) and a tin powder (3.2 g) were added to a suspension of 2-(4-methoxybenzyl)-1,3-dioxoisoindoline-5-carboxylic acid (3.13 g) in acetic acid (30 ml), followed by stirring at room temperature for 12 hours, and a tin powder (1.2 g) was further added thereto, followed by stirring at room temperature for one day. An insoluble substance was filtered with celite, water was added to the filtrate, followed by extraction with ethyl acetate, the organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated. The resulting residue was made into a DMF (50 ml) solution, potassium carbonate (7.0 g) and iodomethane (6.3 ml) were added thereto, followed by stirring at room temperature for 4.5 days. The reaction solution was concentrated and ethyl acetate was added to the residue, followed by washing with water and saturated brine. After drying over anhydrous magnesium sulfate, the solvent was evaporated. The resulting residue was purified by silica gel column chromatography (chloroform:methanol=100:0 to 95:5) to obtain methyl 2-(4-methoxybenzyl)-3-oxoisoindoline-5-carboxylate (910 mg) as a colorless solid.

reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | tin | 3.2 g | [Sn] | Sn
reactant | 2-(4-methoxybenzyl)-1,3-dioxoisoindoline-5-carboxylic acid | 3.13 g | COC1=CC=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C=C1 | C17H13NO5
reactant | tin | 1.2 g | [Sn] | Sn
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | methyl 2-(4-methoxybenzyl)-3-oxoisoindoline-5-carboxylate | 910 mg | COC1=CC=C(CN2CC3=CC=C(C=C3C2=O)C(=O)OC)C=C1 | C18H17NO4
